US05686424
Using the procedure described previously, a solution of L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide (56 mg, 0.15 mmol), 4-N,N-dimethylaminopyridine (3.6 mg, 0.03 mmol, 0.2 eq), 1,3-dicyclohexylcarbodiimide (54 mg, 0.26 mmol, 1.7 eq) in dichloromethane (5.0 mL) was treated with trans 2-methyl-3-phenyl-2-propen-1-ol (28 uL, 0.19 mmol, 1.3 eq). After TLC indicated the reaction was complete, the mixture was purified by HPLC to provide 32 mg (42%) of L-isoleucine, N-[1-(2-(3-phenyl-3-methyl-2-Propen-1-oxy)-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-isoleucine, N-[1-(carboxymethyl)-L-prolyl] benzylamide | 0.15 mmol, 56 mg | C(=O)(O)CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1 | C20H29N3O4
reactant | 1,3-dicyclohexylcarbodiimide | 0.26 mmol, 54 mg, 1.7 eq | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | trans 2-methyl-3-phenyl-2-propen-1-ol | 0.19 mmol, 28 uL, 1.3 eq | C/C(=C\C1=CC=CC=C1)/CO | C10H12O
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
product | L-isoleucine, N-[1-(2-(3-phenyl-3-methyl-2-Propen-1-oxy)-2-oxoethyl)-L-prolyl] benzylamide | 32 mg, 42% | C1(=CC=CC=C1)C(=CCOC(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O)C | C30H39N3O4
